US07166648B2
3,3-Diethyl-2,4-pentandione
25 g of 2,4-pentandione, 98.3 g of bromo-ethane, 80 g of potassium carbonate, and 175 ml of acetone were mixed and refluxed for 39.5 hours. The solid was filtered off and washed with petroleum ether and acetone. To the liquid layer, 2.0 g of 1,8-diazabicyclo-[5.4.0]-undec-7-ene was added and the mixture was refluxed for two days. After addition of an additional 11.6 g of 1,8-diazabicyclo-[5.4.0]-undec-7-ene and refluxing for seven hours, 25 g of ethyl acrylate was added and the mixture was stirred at room temperature, and the solvent was distilled off and the mixture was refluxed for 8 hours. The base was neutralized by adding acetic acid, washed with an aqueous potassium carbonate solution, and extracted with diethyl ether. The ether layer was dried and the product was isolated by fractional distillation to yield 9 g of product (boiling point 190° C./1000 mbar; purity: 75%; colorless).

reactant | 2,4-pentandione | 25 g | CC(CC(C)=O)=O | C5H8O2
reactant | bromo-ethane | 98.3 g | BrCC | C2H5Br
reactant | potassium carbonate | 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 175 ml | CC(=O)C | C3H6O
product | 3,3-Diethyl-2,4-pentandione | 9 g | C(C)C(C(C)=O)(C(C)=O)CC | C9H16O2
